Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Vicodin / Prochlorperazine / Phenergan / Oxycodone / Percocet / 
Benadryl Allergy
 
Attending: ___.
 
Chief Complaint:
Back Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
see admit H&P
 
Past Medical History:
see admit H&P
 
Social History:
___
Family History:
see admit H&P
 
Physical Exam:
see admit H&P
 
Pertinent Results:
___ 07:40PM   CRP-4.2
___ 07:40PM   SED RATE-10
___ 03:00AM   GLUCOSE-98 UREA N-11 CREAT-0.6 SODIUM-143 
POTASSIUM-3.8 CHLORIDE-108 TOTAL CO2-32 ANION GAP-7*
___ 03:00AM   estGFR-Using this
___ 03:00AM   CALCIUM-8.8 PHOSPHATE-4.6*# MAGNESIUM-2.1
___ 03:00AM   WBC-3.2*# RBC-3.70*# HGB-12.2# HCT-34.4*# 
MCV-93 MCH-33.0* MCHC-35.5* RDW-14.3
___ 03:00AM   PLT COUNT-187
___ 03:00AM   ___ PTT-27.3 ___
 
Brief Hospital Course:
Patient was admitted for concern regarding prior 
instrumentation.  All additional imaging revealed intact 
hardware with no evidence of new compression.  Given patient's 
weakness, neurology was consulted.  The opinion of the team was 
that no significant neurologic compromise was ongoing.  Patient 
began to progress well with ___.  Once she was ambulatory and 
with adequate pain control, she was deemed stable for discharge 
home.
 
Medications on Admission:
see admit H&P
 
Discharge Medications:
1. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
2. trazodone 50 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
3. gabapentin 300 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
4. fentanyl 50 mcg/hr Patch 72 hr Sig: One (1) Patch 72 hr 
Transdermal Q72H (every 72 hours).  
5. diazepam 5 mg Tablet Sig: Two (2) Tablet PO Q8H (every 8 
hours) as needed for spasm/pain.
Disp:*30 Tablet(s)* Refills:*0*
6. cholecalciferol (vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
7. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1) 
packet PO DAILY (Daily) as needed for constipation.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Back Pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
1. continue to ambulate as tolerated
2. Continue to monitor symptoms
3. Continue outpatient ___
 
Followup Instructions:
___